US08278304B2
1,1-bis(6-methoxypyridin-3-yl)methanamine
To 5-bromo-2-methoxypyridine (1.00 g, 5.32 mmol) in THF (20 mL) at −78° C. was added n-butyllithium (3.13 mL, 7.83 mmol, 2.5 M in hexane). The reaction was aged at −78° C. for about 25 min at which point the cold bath was removed. 6-methoxypyridine-3-carbonitrile (1.00 g, 7.46 mmol) in THF (10 mL) was added and the reaction aged for about 40 min warming to rt at which point the reaction was concentrated. The residue was diluted with MeOH (20 mL) and NaBH4 (0.282 g 7.46 mmol) was added. The reaction aged about 90 min at rt. The reaction was concentrated and diluted with EtOAc and aq HCl (15 mL, 2 M). The aq portion was extracted twice with EtOAc before adding aq NaOH (20 mL, 2M). The aq portion was then extracted three times with EtOAc. The combined organic portion was concentrated and the residue was purified by flash chromatography on silica gel gradient eluted with 0-100% EtOAc/hexane followed by 0-20% MeOH (containing 1.5% triethylamine)/EtOAc affording the title compound. HPLC/MS: 246 (M+1); Rt=1.61 min.

reactant | 5-bromo-2-methoxypyridine | 5.32 mmol, 1.00 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | n-butyllithium | 7.83 mmol, 2.5 M, 3.13 mL | C(CCC)[Li]
reactant | 6-methoxypyridine-3-carbonitrile | 7.46 mmol, 1.00 g | COC1=CC=C(C=N1)C#N | C7H6N2O
reactant | NaBH4 | 7.46 mmol, 0.282 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
product | 1,1-bis(6-methoxypyridin-3-yl)methanamine | COC1=CC=C(C=N1)C(N)C=1C=NC(=CC1)OC | C13H15N3O2
